US06673795B2
In analogy to the procedure described in example 20b, the 4-chloro-6-cyclopropylamino-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile was treated with the 4-(4-fluoro-phenyl)-piperidine hydrochloride in dioxane in the presence of N-ethyl-diisopropyl-amine at 90° C. to yield 4-cyclopropylamino-6-[4-(4-fluoro-phenyl)-piperidin-1-yl]-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile as an amorphous, light brown solid; MS: [M+H]+=397.

reactant | 4-chloro-6-cyclopropylamino-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)NC1CC1)NCCO | C10H12ClN5O
reactant | 4-(4-fluoro-phenyl)-piperidine hydrochloride | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | N-ethyl-diisopropyl-amine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-cyclopropylamino-6-[4-(4-fluoro-phenyl)-piperidin-1-yl]-2-(2-hydroxy-ethylamino)-pyrimidine-5-carbonitrile | C1(CC1)NC1=NC(=NC(=C1C#N)N1CCC(CC1)C1=CC=C(C=C1)F)NCCO | C21H25FN6O
